US07335660B2
g) (1S)1-{2-[(2R)-4-(1,2-Dihydro-5-acenaphthylenyl)-2-methylpiperazinyl]ethyl}-1,3-dihydro-2-benzofuran-5-carboxamide
The title compound was prepared from 1-(2-hydroxyethyl)-1,3-dihydro-2-benzofuran-5-carboxamide by initial formation of the methanesulfonate as described for the preparation of 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate, and condensation of this sulfonate with (3R)-1-(1,2-dihydro-5-acenaphthylenyl)-3-methylpiperazine, as described for Example 1b). The mixture of diastereomers was separated by chiral HPLC using a Chiracel OJ column, eluting with hexane/ethanol (1:1) with 0.2% dimethylethylamine. M+H=442.

reactant | 1-(2-hydroxyethyl)-1,3-dihydro-2-benzofuran-5-carboxamide | OCCC1OCC2=C1C=CC(=C2)C(=O)N | C11H13NO3
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 2-[(1S)-6-(aminocarbonyl)-3,4-dihydro-1H-2-benzopyran-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCC[C@@H]1OCCC2=C1C=CC(=C2)C(=O)N | C13H17NO5S
reactant | (3R)-1-(1,2-dihydro-5-acenaphthylenyl)-3-methylpiperazine | C1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](NCC2)C | C17H20N2
product | (1S)1-{2-[(2R)-4-(1,2-Dihydro-5-acenaphthylenyl)-2-methylpiperazinyl]ethyl}-1,3-dihydro-2-benzofuran-5-carboxamide | C1CC2=CC=C(C3=CC=CC1=C23)N2C[C@H](N(CC2)CC[C@@H]2OCC3=C2C=CC(=C3)C(=O)N)C | C28H31N3O2
